US07485643B2
Step C: Preparation of 8-(2-chlorophenylamino)-6,7-difluoro-2-(2-hydroxyethyl)-2H-phthalazin-1-one:
A mixture of 2-(2-chlorophenylamino)-3,4-difluoro-6-formyl benzoic acid methyl ester (0.400 mg, 1.228 mmol) and 2-hydroxyethyl hydrazine (0.102 mL, 1.351 mmol) in EtOH (10 mL) was heated at reflux under N2 for 16 hours. After cooling to room temperature, a yellow precipitate formed which was collected by filtration. The yellow solid was washed with EtOH and dried to yield 0.128 g (30%) pure desired product.

reactant | 2-(2-chlorophenylamino)-3,4-difluoro-6-formyl benzoic acid methyl ester | 1.228 mmol, 0.400 mg | COC(C1=C(C(=C(C=C1C=O)F)F)NC1=C(C=CC=C1)Cl)=O | C15H10ClF2NO3
reactant | 2-hydroxyethyl hydrazine | 1.351 mmol, 0.102 mL | OCCNN | C2H8N2O
solvent | EtOH | 10 mL | CCO | C2H6O
product | 8-(2-chlorophenylamino)-6,7-difluoro-2-(2-hydroxyethyl)-2H-phthalazin-1-one | 0.128 g, 30% | ClC1=C(C=CC=C1)NC=1C(=C(C=C2C=NN(C(C12)=O)CCO)F)F | C16H12ClF2N3O2
